US07071182B2
2-{4-[(2,3-difluorobenzyl)oxy]phenyl}-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]acetamide
A mixture of 2-(4-hydroxy-phenyl)-N-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-yl]-acetamide (45.0 mg, 0.124 mmol), 1-bromomethyl-2,3-difluoro-benzene (38.0 mg, 0.185 mmol), Cs2CO3 (60.0 mg, 0.184 mmol) in 2 mL of DMF was shaken for 6 hours after which the mixture was concentrated under reduced pressure. The residue was dissolved in 1.5 mL of a 1:1 mixture of dimethyl sulfoxide/MeOH and purified by preparative reverse-phase HPLC. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.61 (m, 4H), 2.44 (m, 4H), 2.86 (t, 2H, J=6.78), 3.72 (s, 2H), 4.47 (t, 2H, J=6.78), 5.18 (s, 2H), 7.00 (m, 2H), 7.19–7.72 (m, 8H), 8.26 (s, 1H), 10.16 (s, 1H); MS (DCI/NH3) m/z 491 [M+H]+.

reactant | 2-(4-hydroxy-phenyl)-N-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-yl]-acetamide | 0.124 mmol, 45.0 mg | OC1=CC=C(C=C1)CC(=O)NC1=C2C=NN(C2=CC=C1)CCN1CCCC1 | C21H24N4O2
reactant | 1-bromomethyl-2,3-difluoro-benzene | 0.185 mmol, 38.0 mg | BrCC1=C(C(=CC=C1)F)F | C7H5BrF2
reactant | Cs2CO3 | 0.184 mmol, 60.0 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-{4-[(2,3-difluorobenzyl)oxy]phenyl}-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]acetamide | FC1=C(COC2=CC=C(C=C2)CC(=O)NC2=C3C=NN(C3=CC=C2)CCN2CCCC2)C=CC=C1F | C28H28F2N4O2
